US06710067B2
Following the procedure described above, but substituting pyrrolidine with 2-hydroxymethylpyrrolidine, 2-methylpyrrolidine, 2-methoxymethylpyrrolidine, proline, 3,5-dimethylpiperazine, an bis-(2-methoxyethyl)amine provide:

reactant | 2-hydroxymethylpyrrolidine | OCC1NCCC1 | C5H11NO
reactant | 2-methylpyrrolidine | CC1NCCC1 | C5H11N
reactant | 2-methoxymethylpyrrolidine | COCC1NCCC1 | C6H13NO
reactant | proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 3,5-dimethylpiperazine | CC1CNCC(N1)C | C6H14N2
product | bis-(2-methoxyethyl)amine | COCCNCCOC | C6H15NO2
